US04525294
Synthesis of N-Cyclohexyl Glycine
338 g of glycine (4.5 mols) is dissolved in 1.5 liters of deionized water. The solution is put into a 1-gallon autoclave. 25 g of 10% Pd on C, 551 g of cyclohexanone (5.6 mols) and 500 ml of ethanol are added. Hydrogenation is carried out at 60° C. between 56.2 and 70.3 kg/cm2. In the course of three hours a pressure drop corresponding to 98.4 kg/cm2 is observed.

reactant | glycine | 4.5 mols, 338 g | NCC(=O)O | C2H5NO2
reactant | cyclohexanone | 5.6 mols, 551 g | C1(CCCCC1)=O | C6H10O
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 1.5 liters | O | H2O
catalyst | Pd | 25 g | [Pd] | Pd
product | N-Cyclohexyl Glycine | C1(CCCCC1)NCC(=O)O | C8H15NO2
